US05493030
A solution of 5-allyl-4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran [(J. W. Patterson and G. Huang, Chemical Communications, 1579 (1991)](7.5 g) in acetic acid (95 ml) and acetic arthydride (95 ml) was refluxed for 18 hours, then cooled and poured into ice water. The solution was extracted with ethyl acetate, and the extract washed with dilute aqueous sodium bicarbonate, followed by water, then dried and evaporated. The residue was chromatographed on silica gel, eluting with 7:3 hexane:ethyl acetate, to give 4-acetoxy-5-allyl-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran, mp 101°-102° C.

reactant | 5-allyl-4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran | C(C=C)C=1C(=C2C(OCC2=C(C1OC)C)=O)O[Si](C)(C)C(C)(C)C | C19H28O4Si
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | acetic acid | 95 ml | C(C)(=O)O | C2H4O2
product | 4-acetoxy-5-allyl-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran | C(C)(=O)OC1=C2C(OCC2=C(C(=C1CC=C)OC)C)=O | C15H16O5
